* SKY130 Current-Starved Ring Oscillator — Starter Topology
* 5-stage single-ended with current-starving for frequency control

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* Control voltage (sets oscillation frequency)
Vctrl vctrl 0 0.9

* === Current starving bias ===
* NMOS current source (bottom)
XMbn1 starn vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
* PMOS current source (top) — mirror from bias
XMbias pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMbp1 starp pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
Rbias vctrl pbias 3162.2776601683804

* === Stage 1 ===
XMp1 n1 n5 starp1 vdd sky130_fd_pr__pfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMn1 n1 n5 starn1 vss sky130_fd_pr__nfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMsp1 starp1 pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMsn1 starn1 vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1

* === Stage 2 ===
XMp2 n2 n1 starp2 vdd sky130_fd_pr__pfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMn2 n2 n1 starn2 vss sky130_fd_pr__nfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMsp2 starp2 pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMsn2 starn2 vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1

* === Stage 3 ===
XMp3 n3 n2 starp3 vdd sky130_fd_pr__pfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMn3 n3 n2 starn3 vss sky130_fd_pr__nfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMsp3 starp3 pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMsn3 starn3 vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1

* === Stage 4 ===
XMp4 n4 n3 starp4 vdd sky130_fd_pr__pfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMn4 n4 n3 starn4 vss sky130_fd_pr__nfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMsp4 starp4 pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMsn4 starn4 vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1

* === Stage 5 (output) ===
XMp5 n5 n4 starp5 vdd sky130_fd_pr__pfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMn5 n5 n4 starn5 vss sky130_fd_pr__nfet_01v8 W=4.999999999999999u L=0.5477225575051662u nf=1
XMsp5 starp5 pbias vdd vdd sky130_fd_pr__pfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1
XMsn5 starn5 vctrl vss vss sky130_fd_pr__nfet_01v8 W=7.071067811865476u L=0.8660254037844386u nf=1

* Output buffer
XMpout out n5 vdd vdd sky130_fd_pr__pfet_01v8 W=5u L=0.15u nf=1
XMnout out n5 vss vss sky130_fd_pr__nfet_01v8 W=2.5u L=0.15u nf=1

* Kick start (small cap imbalance)
Ckick n1 vss 1f

.options reltol=0.003 method=gear

* === Measurements ===
.control
* Transient — run long enough for steady state
tran 0.1n 500n

* Measure frequency from last cycles
meas tran trise1 when v(out)=0.9 rise=10
meas tran trise2 when v(out)=0.9 rise=11
let period = trise2 - trise1
let freq = 1 / period
echo "RESULT_FREQ_HZ" $&freq

* Power
meas tran avg_idd avg i(Vdd) from=200n to=500n
let pwr = abs(avg_idd) * 1.8 * 1e6
echo "RESULT_POWER_UW" $&pwr

* Tuning range: measure at Vctrl = 0.3V and Vctrl = 1.5V
* (Agent should implement this by running multiple transients)
echo "RESULT_TUNING_RANGE_RATIO 1.0"

* Temperature variation placeholder
echo "RESULT_TEMP_VARIATION_PCT 0"

* Jitter placeholder
echo "RESULT_JITTER_PCT 0"

echo "RESULT_DONE"
.endc

.end
